US07074791B2
7-(2,4-dichlorophenyl)-N-[2-methoxy-1-(methoxymethyl)ethyl]-2,6-dimethylpyrrolo[1,2-b]pyridazin-4-amine
A mixture of 4-bromo-7-(2,4-dichlorophenyl)-2,6-dimethylpyrrolo[1,2-b]pyridazine (0.143 g, 0.387 mmol), 1,3-dimethoxypropan-2-amine (0.092 g, 0.774 mmol), 2′-(dicyclohexylphosphino)-N,N-dimethyl-1,1′-biphenyl-2-amine (0.011 g, 0.029 mmol), Cs2CO3 (0.176 g, 0.542 mmol) and Pd2(dba)3 (0.018 g, 0.02 mmol) in DME (5.0 mL) is refluxed for 24 h. After cooling to room temperature, to the mixture is added 1,3-dimethoxypropan-2-amine (0.092 g, 0.774 mmol), 2′-(dicyclohexylphosphino)-N,N-dimethyl-1,1′-biphenyl-2-amine (0.011 g, 0.029 mmol) and Pd2(dba)3 (0.018 g, 0.02 mmol). The mixture is refluxed for another 24 h. After cooling to room temperature, the mixture is filtered and washed with EtOAc. The filtrate is concentrated in vacuo to dryness, the residue is subjected to preparative TLC (silica gel, 1/5 EtOAc/heptane) to give 0.07 g (44%) of light yellow solid as the title compound: mp 154–155° C. (CH2Cl2/heptane); 1H NMR (400 MHz, CDCl3) δ 7.57 (d, J=2.0 Hz, 1H), 7.41 (d, J=8.3 Hz, 1H), 7.36 (d, J=8.3, 2.0 Hz, 1H), 6.35 (s, 1H), 5.65 (s, 1H), 4.88 (d, J=8.4 Hz, 1H), 3.91–3.82 (m, 1H), 3.69–3.66 (m, 2H), 3.61–3.55 (m, 2H), 3.45 (s, 3H), 3.44 (s, 3H), 2.33 (s, 3H), 2.21 (s, 3H); 13C NMR (100 MHz, CDCl3) δ 150.4, 142.4, 136.4, 134.3, 134.1, 129.6, 129.3, 126.8, 123.3, 120.6, 119.3, 95.1, 88.0, 70.9, 59.3, 51.3, 22.4, 12.3; IR (diffuse reflectance) 3336, 2924, 1560, 1490, 1372, 1330, 1192, 1113, 1098, 1078, 1051, 961, 821, 811, 778 cm−1; MS (EI) m/z 407 (M+), 409 (M+); HRMS (FAB) calcd for C20H23Cl2N3O2+H 408.1245, found 408.1244; Anal. Calcd for C20H23Cl2N3O2: C, 58.83; H, 5.68; N, 10.29. Found: C, 58.90; H, 5.78; N, 10.13.

reactant | 4-bromo-7-(2,4-dichlorophenyl)-2,6-dimethylpyrrolo[1,2-b]pyridazine | 0.387 mmol, 0.143 g | BrC=1C=2N(N=C(C1)C)C(=C(C2)C)C2=C(C=C(C=C2)Cl)Cl | C15H11BrCl2N2
reactant | 1,3-dimethoxypropan-2-amine | 0.774 mmol, 0.092 g | COCC(COC)N | C5H13NO2
reactant | 2′-(dicyclohexylphosphino)-N,N-dimethyl-1,1′-biphenyl-2-amine | 0.029 mmol, 0.011 g | C1(CCCCC1)P(C1=C(C=CC=C1)C=1C(=CC=CC1)N(C)C)C1CCCCC1 | C26H36NP
reactant | Cs2CO3 | 0.542 mmol, 0.176 g | C(=O)([O-])[O-].[Cs+].[Cs+]
reactant | 1,3-dimethoxypropan-2-amine | 0.774 mmol, 0.092 g | COCC(COC)N | C5H13NO2
reactant | 2′-(dicyclohexylphosphino)-N,N-dimethyl-1,1′-biphenyl-2-amine | 0.029 mmol, 0.011 g | C1(CCCCC1)P(C1=C(C=CC=C1)C=1C(=CC=CC1)N(C)C)C1CCCCC1 | C26H36NP
solvent | DME | 5.0 mL | COCCOC | C4H10O2
catalyst | Pd2(dba)3 | 0.02 mmol, 0.018 g | C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.[Pd].[Pd]
catalyst | Pd2(dba)3 | 0.02 mmol, 0.018 g | C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.[Pd].[Pd]
product | 7-(2,4-dichlorophenyl)-N-[2-methoxy-1-(methoxymethyl)ethyl]-2,6-dimethylpyrrolo[1,2-b]pyridazin-4-amine | ClC1=C(C=CC(=C1)Cl)C1=C(C=C2N1N=C(C=C2NC(COC)COC)C)C | C20H23Cl2N3O2
